US04450164
A mixture of 2-aminonicotinaldehyde (92.8 g, 0.76 mol) and bromoacetone (114.5 g, 0.84 mol) in dimethoxyethane (980 ml) is stirred for 2 hours at room temperature and then heated at 65° with stirring for 14 hours.The solid which separates is isolated by filtration, dissolved in 800 ml absolute ethanol and heated under a reflux for 6 hours. The ethanol solvent is removed under reduced pressure and the residue treated with 138ml 6 N hydrochloric acid in 750 ml water for 0.5 hour. The acidic aqueous layer is washed with ether (2×300 ml) and basified with cooling (78 ml) 50% sodium hydroxide and 25 g sodium bicarbonate). The aqueous layer is extracted with dichloromethane. The extracts are combined and dried over anhydrous sodium sulfate. Following filtration, the solvent is removed under reduced pressure to afford 2-methyl-8-formyl-imidazo[1,2-a]pyridine, mp 136°-139.5° C.

reactant | 2-aminonicotinaldehyde | 0.76 mol, 92.8 g | NC1=C(C=O)C=CC=N1 | C6H6N2O
reactant | bromoacetone | 0.84 mol, 114.5 g | BrCC(C)=O | C3H5BrO
solvent | dimethoxyethane | 980 ml | C(OC)COC | C4H10O2
solvent | ethanol | 800 ml | C(C)O | C2H6O
product | 2-methyl-8-formyl-imidazo[1,2-a]pyridine | CC=1N=C2N(C=CC=C2C=O)C1 | C9H8N2O
